US07816540B2
b) 4-Amino-3-trifluoromethyl-benzoic acid methyl ester
To a solution of 4.0 g (16.1 mmol) 4-nitro-3-trifluoromethyl-benzoic acid methyl ester in 50 mL methanol 0.4 g 10% palladium on charcoal was added and the suspension stirred for 2 h at room temperature under an atmosphere of hydrogen (1.7 bar). After the addition of 100 mL ethyl acetate the catalyst was filtered off, the filtrate evaporated and dried under high vacuum to give the title compound as a white solid (98%) which was used in the next step without further purification.

reactant | 4-nitro-3-trifluoromethyl-benzoic acid methyl ester | 16.1 mmol, 4.0 g | COC(C1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F)=O | C9H6F3NO4
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 mL, 0.4 g | CO | CH4O
product | 4-Amino-3-trifluoromethyl-benzoic acid methyl ester | 98% | COC(C1=CC(=C(C=C1)N)C(F)(F)F)=O | C9H8F3NO2
